US06090839
Step B: 2-(2-(4-(4-Chlorophenoxy)-2-propylphenoxy)ethyl)indole-5-acetic acid
Using the procedures in Example 15, steps F and G, the title compound was prepared from methyl 2-(2-hydroxyethyl)indole-5-acetate and 4-(4-chlorophenoxy)-2-propylphenol.

reactant | methyl 2-(2-hydroxyethyl)indole-5-acetate | OCCC=1NC2=CC=C(C=C2C1)CC(=O)OC | C13H15NO3
reactant | 4-(4-chlorophenoxy)-2-propylphenol | ClC1=CC=C(OC2=CC(=C(C=C2)O)CCC)C=C1 | C15H15ClO2
product | 2-(2-(4-(4-Chlorophenoxy)-2-propylphenoxy)ethyl)indole-5-acetic acid | ClC1=CC=C(OC2=CC(=C(OCCC=3NC4=CC=C(C=C4C3)CC(=O)O)C=C2)CCC)C=C1 | C27H26ClNO4
